US07153878B2
(4-{1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethylsulfan yl}-2-methyl-phenoxy)-acetic acid ethyl ester
A solution of (4-Mercapto-2-methyl-phenoxy)-acetic acid (158 mg, 0.7 mmol) and 1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol (200 mg, 0.465 mmol) in toluene (3.0 mL) is degassed and filled with nitrogen for 3 times. Tributylphosphine (0.174 mL, 0.7 mmol) is added to the reaction mixture under nitrogen at 0° C., followed by addition of of 1,1′-(azodicarbonyl)-dipiperidine (177 mg, 0.7 mmol). The reaction mixture is allowed to warm to room temperature and stirred overnight, the mixture is loaded on silica gel column. Chromatography gave the title compound (160 mg).

reactant | (4-Mercapto-2-methyl-phenoxy)-acetic acid | 0.7 mmol, 158 mg | SC1=CC(=C(OCC(=O)O)C=C1)C | C9H10O3S
reactant | 1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol | 0.465 mmol, 200 mg | ClC1=C(C(=CC=C1)F)CCC=1N=C(SC1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C20H16ClF4NOS
reactant | Tributylphosphine | 0.7 mmol, 0.174 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 0.7 mmol, 177 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | (4-{1-[4-[2-(2-Chloro-6-fluoro-phenyl)-ethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethylsulfan yl}-2-methyl-phenoxy)-acetic acid ethyl ester | 160 mg | C(C)OC(COC1=C(C=C(C=C1)SC(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCC1=C(C=CC=C1F)Cl)C)=O | C31H28ClF4NO3S2
